US07745641B2
In a similar manner to Step 2 of Example 6, 4-(3-thiophenesulfonyloxy)-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (0.0650 g, 0.114 mmol) was dissolved in acetonitrile (5.0 mL), and the solution was treated with pyrrolidine (0.191 mL, 2.29 mmol), acetic acid (0.131 mL, 2.29 mmol) and sodium triacetoxyborohydride (0.0730 g, 0.343 mmol), followed by purification of the residue by flash column chromatography (chloroform/methanol=85/15, 80/20) to obtain 4-(3-thiophenesulfonyloxy)-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-(pyrrolidin-1-ylmethyl)indol-2-yl]isoindolinone (0.0501 g, 70%).

reactant | 4-(3-thiophenesulfonyloxy)-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 0.114 mmol, 0.0650 g | S1C=C(C=C1)S(=O)(=O)OC1=C2CNC(C2=C(C=C1OC)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O | C27H24N2O8S2
reactant | pyrrolidine | 2.29 mmol, 0.191 mL | N1CCCC1 | C4H9N
reactant | acetic acid | 2.29 mmol, 0.131 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.343 mmol, 0.0730 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetonitrile | 5.0 mL | C(C)#N | C2H3N
product | 4-(3-thiophenesulfonyloxy)-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-(pyrrolidin-1-ylmethyl)indol-2-yl]isoindolinone | 0.0501 g, 70% | S1C=C(C=C1)S(=O)(=O)OC1=C2CNC(C2=C(C=C1OC)C=1N(C2=CC=C(C=C2C1)CN1CCCC1)C(=O)OC(C)(C)C)=O | C31H33N3O7S2
